US08729105B2
Preparation of [6-chloro-4-iodo-5-(2,2,2-trifluoro-ethoxy)-pyridin-2-yl]-methanol
6-Chloro-5-hydroxy-4-iodo-2-pyridinemethanol (CAS Registry No. 208519-37-3) (21.5 g, 75 mmol) was dissolved in hexamethylphosphoramide (210 mL). Over a period of 30 min sodium hydride (3.0 g of 60% dispersion in oil, ˜75 mmol) was added with stirring at room temperature. The mixture was stirred for another 45 min at room temperature and 2,2,2-trifluoroethyl trifluoromethane sulfonate (12.5 mL, 90 mmol) was added drop wise with stirring and temperature control (<40° C.). The mixture was stirred for 18 h at 120° C., cooled to room temperature and poured into water (800 mL). The mixture was acidified with 2N—HCl (50 mL) and extracted with ethyl acetate (2×350 mL). Organic phases were washed with water (2×400 mL), pooled and dried with Na2SO4. Solvents were evaporated and the brown, solid residue (27.9 g) was purified by chromatography on silica with ethyl acetate/n-heptane (1:1) to give the title compound as a white solid (24.8 g, 90%), LC-MS (UV peak area/ESI) 100%, 367.916 (M+H)+.

reactant | 6-Chloro-5-hydroxy-4-iodo-2-pyridinemethanol | ClC1=C(C(=CC(=N1)CO)I)O | C6H5ClINO2
reactant | sodium hydride | ˜75 mmol, 3.0 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl trifluoromethane sulfonate | 90 mmol, 12.5 mL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | HCl | 50 mL | Cl | ClH
solvent | hexamethylphosphoramide | 210 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | 800 mL | O | H2O
product | [6-chloro-4-iodo-5-(2,2,2-trifluoro-ethoxy)-pyridin-2-yl]-methanol | 24.8 g, 90% | ClC1=C(C(=CC(=N1)CO)I)OCC(F)(F)F | C8H6ClF3INO2
